US04829079
Example 48: 1-(4-aminobenzenesulphonyl)-2-oxo-5-ethoxypyrrolidine.
At ambient temperature and pressure, 4.5 g of 1-(4-nitrophenylsulphonyl)-5-ethoxypyrrolidin-2-one, dissolved in 200 cm3 of 96° ethanol is hydrogenated in the presence of palladium at 10% on charcoal. The insoluble matter is filtered off and taken up with hot chloroform, filtered, and the last filtrate is added to the alcohol solution resulting from the first filtration. After re-crystallizing the residue twice from 96° ethanol, 2.3 g of the expected product is obtained, m.p. 185°-186° C.

reactant | 1-(4-nitrophenylsulphonyl)-5-ethoxypyrrolidin-2-one | 4.5 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)N1C(CCC1OCC)=O | C12H14N2O6S
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium | [Pd] | Pd
product | 1-(4-aminobenzenesulphonyl)-2-oxo-5-ethoxypyrrolidine | 2.3 g | NC1=CC=C(C=C1)S(=O)(=O)N1C(CCC1OCC)=O | C12H16N2O4S
